US20010056199A1
Preparation of Formula I Silane—(MsO)2SiMe2.
1H NMR analysis of the product showed that one equivalent of HCl was present with two equivalents (MsO)2SiMe2; yield is quantitative.

reactant | HCl | one equivalent | Cl | ClH
reactant | (MsO)2SiMe2 | two equivalents | [Si](C)(C)(OS(=O)(=O)C)OS(=O)(=O)C | C4H12O6S2Si
product | Silane (MsO)2SiMe2 | [SiH4].[Si](C)(C)(OS(=O)(=O)C)OS(=O)(=O)C | InChI=1S/C4H12O6S2Si.H4Si/c1-11(5,6)9-13(3,4)10-12(2,7)8;/h1-4H3;1H4
